US08283353B2
4′-({4-[4-(2-hydroxy-1,1-dimethylethoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of methyl 2-(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}phenoxy)-2-methylpropanoate (2.0 g) in tetrahydrofuran (16 mL) was added lithium borohydride (0.49 g) and the mixture was stirred for 18 hr. Ethyl acetate and then saturated aqueous ammonium chloride solution were added. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.97 g, 51%).

reactant | methyl 2-(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}phenoxy)-2-methylpropanoate | 2.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)C2=CC=C(OC(C(=O)OC)(C)C)C=C2)=O | C33H31N5O4
reactant | lithium borohydride | 0.49 g | [BH4-].[Li+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | 4′-({4-[4-(2-hydroxy-1,1-dimethylethoxy)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.97 g, 51% | OCC(OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(C)C | C32H31N5O3
